US05310757
EXAMPLE 2: (CIS) 3,3,5-TRIMETHYLCYCLOHEXYL 2-(4-(4-CHLOROBENZOYL)PHENOXY)-2-METHYLPROPIONATE
5 g of 3,3,5-trimethylcyclohexanol, CIS form, and then 3.5 g of triethylamine dissolved in 10 ml of chloroform are added to 50 ml of pure chloroform. 12 g of 2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropionyl chloride diluted in a few ml of chloroform are then added slowly to the solution at low temperature. The mixture is refluxed for three hours and then, after cooling, the organic layer is washed successively with a normal solution of hydrochloric acid, sodium hydroxide and then distilled water. It is evaporated under reduced pressure and the residue is then chromatographed on a silica column with a mixture of petroleum ether and ethyl acetate and finally recrystallized from ethanol to give the title derivative in the form of attractive white crystals melting at 65° C., which in thin layer chromatography give a single spot of Rf 0.45 in the solvent system described in Example 1.

reactant | 3,3,5-trimethylcyclohexanol | 5 g | CC1(CC(CC(C1)C)O)C | C9H18O
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropionyl chloride | 12 g | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)Cl)(C)C)C=C2)C=C1 | C17H14Cl2O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (CIS) 3,3,5-TRIMETHYLCYCLOHEXYL 2-(4-(4-CHLOROBENZOYL)PHENOXY)-2-METHYLPROPIONATE | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)O[C@@H]3CC(C[C@@H](C3)C)(C)C)(C)C)C=C2)C=C1 | C26H31ClO4
